US06699863B1
Preparation of 5-Chloro-3-(5-dimethylamino-3H-isobenzofuran-1-ylidene)-1-piperidin-1-ylmethyl-1,3-dihydro-indol-2-one
A mixture of 5-Chloro-3-(5-dimethylamino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (400 mg, 1.22 mmol), paraformaldehyde (91 mg, 3.05 mmol) and piperidine (156 mg, 1.83 mmol) in 20 mL of EtOH was stirred at reflux for overnight and cooled to room temperature. The solid which formed on cooling was collected by filtration, washed with EtOH (5 mL) and dried under vacuum to give the title compound (500 mg, 97%) as bright yellow crystals.

reactant | 5-Chloro-3-(5-dimethylamino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 1.22 mmol, 400 mg | ClC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=CC(=CC=C12)N(C)C | C18H15ClN2O2
reactant | paraformaldehyde | 3.05 mmol, 91 mg | C=O | CH2O
reactant | piperidine | 1.83 mmol, 156 mg | N1CCCCC1 | C5H11N
solvent | EtOH | 20 mL | CCO | C2H6O
product | 5-Chloro-3-(5-dimethylamino-3H-isobenzofuran-1-ylidene)-1-piperidin-1-ylmethyl-1,3-dihydro-indol-2-one | 500 mg, 97% | ClC=1C=C2C(C(N(C2=CC1)CN1CCCCC1)=O)=C1OCC2=CC(=CC=C12)N(C)C | C24H26ClN3O2
